US07745438B2
(2R,3S,5R)-5-[2-Amino-3-(3-benzyloxy-5-fluoro-phenyl)-1-hydroxy-propyl]-2-(2,2-dimethyl-propoxy)-3-methyl-morpholine-4-carboxylic acid tert-butyl ester
Add sodium borohydride (1.66 g, 43.87 mmol) to (2R,3S,5R)-5-[(1R,2S)-3-(3-benzyloxy-5-fluoro-phenyl)-1-hydroxy-2-nitro-propyl]-2-(2,2-dimethyl-propoxy)-3-methyl-morpholine-4-carboxylic acid tert-butyl ester (5.89 g, 9.97 mmol) and nickel chloride (2.07 g, 15.95 mmol) in methanol (100 mL) at room temperature and stir 30 minutes. Add water (˜10 mL) and concentrate. Dilute with ethyl acetate and filter through celite. Partition between ethyl acetate and saturated aqueous sodium chloride. Wash the organic layer with saturated aqueous sodium chloride, dry (sodium sulfate), filter and concentrate to give 4.32 g (77.3%) of the desired compound as a white solid.

reactant | sodium borohydride | 43.87 mmol, 1.66 g | [BH4-].[Na+]
reactant | (2R,3S,5R)-5-[(1R,2S)-3-(3-benzyloxy-5-fluoro-phenyl)-1-hydroxy-2-nitro-propyl]-2-(2,2-dimethyl-propoxy)-3-methyl-morpholine-4-carboxylic acid tert-butyl ester | 9.97 mmol, 5.89 g | C(C)(C)(C)OC(=O)N1[C@H]([C@@H](OC[C@@H]1[C@H]([C@H](CC1=CC(=CC(=C1)F)OCC1=CC=CC=C1)[N+](=O)[O-])O)OCC(C)(C)C)C | C31H43FN2O8
solvent | methanol | 100 mL | CO | CH4O
catalyst | nickel chloride | 15.95 mmol, 2.07 g | [Ni](Cl)Cl
product | (2R,3S,5R)-5-[2-Amino-3-(3-benzyloxy-5-fluoro-phenyl)-1-hydroxy-propyl]-2-(2,2-dimethyl-propoxy)-3-methyl-morpholine-4-carboxylic acid tert-butyl ester | 4.32 g, 77.3% | C(C)(C)(C)OC(=O)N1[C@H]([C@@H](OC[C@@H]1C(C(CC1=CC(=CC(=C1)F)OCC1=CC=CC=C1)N)O)OCC(C)(C)C)C | C31H45FN2O6
